Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
Cardiac catheterization, including coronary angiography

attach
 
Pertinent Results:
===============
ADMISSION LABS:
===============
___ 03:35PM BLOOD WBC-4.4 RBC-4.45* Hgb-13.2* Hct-40.9 
MCV-92 MCH-29.7 MCHC-32.3 RDW-12.8 RDWSD-43.0 Plt ___
___ 03:35PM BLOOD Neuts-57.8 ___ Monos-13.3* 
Eos-1.4 Baso-0.5 Im ___ AbsNeut-2.57 AbsLymp-1.19* 
AbsMono-0.59 AbsEos-0.06 AbsBaso-0.02
___ 03:35PM BLOOD ___ PTT-31.2 ___
___ 03:35PM BLOOD Plt ___
___ 03:35PM BLOOD Glucose-83 UreaN-13 Creat-0.8 Na-140 
K-5.0 Cl-103 HCO3-26 AnGap-11
___ 03:35PM BLOOD CK(CPK)-83
___ 03:35PM BLOOD CK-MB-1
___ 03:35PM BLOOD cTropnT-0.13*
___ 10:00PM BLOOD cTropnT-0.10*
___ 03:50AM BLOOD cTropnT-0.07*
___ 03:35PM BLOOD Cholest-231*
___ 03:35PM BLOOD %HbA1c-5.2 eAG-103
___ 03:35PM BLOOD Triglyc-106 HDL-57 CHOL/HD-4.1 
LDLcalc-153*

========
REPORTS:
========
CARDIAC CATH ___:
Coronary Description The coronary circulation is right dominant. 


LM:The Left Main, arising from the left cusp, is a large caliber 
vessel. This vessel bifurcates into the Left Anterior Descending 
and Left Circumflex systems. There is a 30% stenosis in the 
proximal and mid segments.
LAD:The Left Anterior Descending artery, which arises from the 
LM, is a large caliber vessel. There is a 40% stenosis in the 
proximal segment. There is a 40% stenosis in the mid segment. 
The Diagonal, arising from the proximal segment, is a medium 
caliber vessel. 
Cx:The Circumflex artery, which arises from the LM, is a large 
caliber vessel. The ___ Obtuse Marginal, arising from the 
proximal segment, is a medium caliber vessel. The ___ Obtuse 
Marginal, arising from the mid segment, is a small caliber 
vessel. There is a 100% stenosis in the ostium. 
RCA:The Right Coronary Artery, arising from the right cusp, is a 
large caliber vessel. There is a 60% stenosis in the distal 
segment. The Right Posterior Descending Artery, arising from the 
distal segment, is a medium caliber vessel. The Right 
Posterolateral Artery, arising from the distal segment, is a 
medium caliber vessel.

Interventional Details 
A 6 ___ EBU3.5 guide provided adequate support. Crossed with 
a Prowater wire into the distal OM2. The wire was not free and 
it became evident there was a wire-induced dissection in OM2. We 
were unable to wire with ___ XT. Final angiography showed 
OM2 continued to be totally occluded with left-left collaterals. 
The procedure was not feasible without moderate sedation. Risks, 
benefits and alternatives were discussed and informed consent 
obtained. With rhythm, blood pressure and oxygen saturation 
monitors, constant nursing observation, and direct attending 
supervision, the patient received an appropriate level of 
sedation (see medication list ). The attending was at the 
bedside continuously for min during sedation. The patient was 
subsequently observed with serial examinations until the return 
of pre-sedation mental status.
 
Complications 
Complication: Vessel dissection during procedure. 

Findings
• Occluded small OM2 with failed PCI and robust left-left 
collaterals. Given occluded OM2 is a small vessel with good 
collaterals and the patient is pain free, did not proceed with 
further attempts at wiring/POBA. • Negative RFR of intermediate 
lesion in RCA (0.96) 

TTE ___:
CONCLUSION: 
The left atrial volume index is normal. There is no evidence for 
an atrial septal defect by 2D/color Doppler. The estimated right 
atrial pressure is ___ mmHg. There is mild symmetric left 
ventricular hypertrophy with a normal cavity size. There is a 
small area of regional left ventricular systolic dysfunction 
with subtle hypokinesis of the inferior wall (see schematic). 
Quantitative biplane left ventricular ejection fraction is 66 % 
(normal 54-73%). There is no resting left ventricular outflow 
tract gradient. No ventricular septal defect is seen. Diastolic 
parameters are indeterminate. Normal right ventricular cavity 
size with normal free wall motion. The aortic sinus diameter is 
normal for gender with a normal ascending aorta diameter for 
gender. The aortic arch diameter is normal. There is no evidence 
for an aortic arch coarctation. The aortic valve leaflets (3) 
are mildly thickened. There is no aortic valve stenosis. There 
is no aortic regurgitation. The mitral valve leaflets appear 
structurally normal with no mitral valve prolapse. There is 
trivial mitral regurgitation. The pulmonic valve leaflets are 
normal. The tricuspid valve leaflets appear structurally normal. 
There is physiologic tricuspid regurgitation. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion. 

IMPRESSION: 
Mild symmetric left ventricular hypertrophy with subtle 
hypokinesis of the inferior wall in the setting of globally 
preserved biventricular systolic function. No clinically 
significant valvular disease. Normal pulmonary pressure.

===============
DISCHARGE LABS:
===============
___ 06:18AM BLOOD WBC-6.0 RBC-4.42* Hgb-13.2* Hct-39.9* 
MCV-90 MCH-29.9 MCHC-33.1 RDW-12.7 RDWSD-41.7 Plt ___
___ 06:18AM BLOOD Plt ___
___ 06:18AM BLOOD Glucose-94 UreaN-12 Creat-0.9 Na-142 
K-5.0 Cl-103 HCO3-28 AnGap-11
___ 06:18AM BLOOD Calcium-9.6 Phos-3.8 Mg-1.9
 
Brief Hospital Course:
==================
SUMMARY STATEMENT:
==================
Mr. ___ is a ___ male with no PMH HLD who presents with
NSTEMI found to have multivessel coronary disease with suspect
lesion occluded second OM that could not be intervened upon d/t
subsequent dissection, being treated medically. 

==============
ACTIVE ISSUES:
==============
#NSTEMI:
Patient with 1 week of stuttering chest pain that progressed to 
rest pain found to have NSTEMI, who underwent cardiac cath on 
___ notable for multivessel coronary disease with suspect 
lesion
occluded second OM that could not be intervened upon d/t 
subsequent dissection, being treated medically. He was started 
on optimal medical management consisting of lisinopril 5mg 
daily, ASA 81mg daily, atorvastatin 80mg daily, Plavix 75mg 
daily for minimum ___ year, and metoprolol succinate XL 25mg 
daily, Imdur 30mg daily. Notably patient did not have extremely 
high risk profile - found to have hyperlipidemia and mild 
hypertension, but no diabetes, smoking, mild family history and 
no known inflammatory condition. Patient did have prior history 
of obesity. The day prior to discharge he underwent TTE that 
demonstrated mild symmetric left ventricular hypertrophy with 
subtle hypokinesis of the inferior wall in the setting of 
globally preserved biventricular systolic function. On day of 
discharge he was chest pain free. He will follow up with 
cardiology in one week to ensure tolerability of ACE and further 
optimization of regimen. 

#Alcohol use
Patient reports drinking ___ drinks, 6 nights per week. Patient 
was counseled on limiting alcoholic drinks to a maximum of 2 
standard drinks per night. 

# Hypertension
Patient started on lisinopril as above with stable renal 
function. 
================
CHRONIC ISSUES:
================
Hyperlipidemia:
- Found to have elevated total cholesterol 231 and started on 
atorvastatin as above
I saw and examined the patient, reviewed the note, and agree 
with
the plan as outlined.

>30 minutes at patient's bedside/coordination of care/discharge 
planning.
 
Medications on Admission:
1. Advil PRN
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
4.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
RX *isosorbide mononitrate 30 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
5.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
6.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
7.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
RX *nitroglycerin 0.3 mg 1 tablet(s) sublingually As needed for 
chest pain Disp #*15 Tablet Refills:*0 
8.Outpatient Lab Work
I21.4
Please obtain serum creatinine, BUN, sodium, potassium, 
chloride, bicarbonate and fax results to Dr. ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
-Non-ST segment elevation myocardial infarction

SECONDARY DIAGNOSIS:
====================
-Dyslipidemia
-Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
It was a pleasure taking care of you at ___ 
___.  
 
WHY WAS I ADMITTED TO THE HOSPITAL?  
- You were admitted to the hospital because you had chest pain 
that was found to be a heart attack.
 
WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?  
- You underwent a cardiac catheterization which allowed us to 
view the blood vessels of your heart. We saw moderate blockages 
of several arteries and a 100% blockage of a smaller artery. 
Testing done during the procedure determined the moderate 
blockages did not reduce blood flow enough to warrant any 
further invasive intervention. We decided to maximally manage 
the blockages with medications to help slow further progression 
of the disease. These include 2 medications to prevent your 
platelets from causing clots (aspirin and Plavix), a medication 
to reduce heart rate (metoprolol-a beta blocker), a medication 
to reduce blood pressure (lisinopril), and a medication to 
reduce your cholesterol (atorvastatin). We also discussed 
healthy lifestyle choices, such as: reducing alcohol intake to 
no more than 2 standard drinks per night and exercising for 30 
mins of moderate intensity 5 times per week.

WHAT SHOULD I DO WHEN I GO HOME?  
- You should continue to take your medications as prescribed.  
- You can resume previous activity levels but should avoid heavy 
lifting or vigorous exercise as your heart and arm recover
- You should not take Viagra, Cialis or other medications for 
erectile dysfunction as you are on a nitrate medication for 
chest pain
- If you are experiencing new or concerning chest pain that is 
coming and going you should call the heartline at ___. 
If you are experiencing persistent chest pain that is not 
getting better with rest or nitroglycerine you should call ___.  

- You should also call the heartline if you develop swelling in 
your legs, abdominal distention, or shortness of breath at 
night.  
- You should attend the appointments listed below.  

We wish you the best!  
Your ___ Care Team  

 
Followup Instructions:
___